US07696248B2
Step B. 4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid
4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid methyl ester (718 mg) is taken into MeOH (10 mL), followed by the addition of 5N NaOH (1 mL). The reaction is stirred for 4 h, diluted with EtOAc, washed with aqueous HCl and brine. The organic portion is dried over MgSO4, and concentrated to afford 510 mg of the titled compound, which is used directly in the next step.

reactant | 4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid methyl ester | 718 mg | COC(C1=CC=C(C=C1)C(CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O | C29H35NO2
reactant | MeOH | 10 mL | CO | CH4O
reactant | NaOH | 5N, 1 mL | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid | 510 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CC(C)C)C1=CC=C(C(=O)O)C=C1 | C28H33NO2
